US07989637B2
3-(5-Isopropyl-[1,2,4]triazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid (1.90 g, 6 mmol), C-(5-methyl-pyrazin-2-yl)-methylamine (0.73 g, 6 mmol), EDCI (1.69 g, 9 mmol), HOBt (1.20 g, 9 mmol) and NMM (3.2 mL) were added to 20 mL of acetonitrile. The reaction mixture was stirred at room temperature for 18 hours under nitrogen atmosphere, then was partitioned between water and EtOAc. The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure. The resulting residue was purified via flash chromatography (IPA/DCM 1:4)) to give 1.63 g of 3-(5-isopropyl-[1,2,4]triazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide, MS (M+H)=428.

reactant | 3-(5-Isopropyl-[1,2,4]triazol-1-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid | 6 mmol, 1.90 g | C(C)(C)C1=NC=NN1C=1C=C(C(=O)O)C=C(C1)C1=NC=C(C=C1)C | C18H18N4O2
reactant | C-(5-methyl-pyrazin-2-yl)-methylamine | 6 mmol, 0.73 g | CC=1N=CC(=NC1)CN | C6H9N3
reactant | EDCI | 9 mmol, 1.69 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 9 mmol, 1.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 3.2 mL | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-(5-isopropyl-[1,2,4]triazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-5-(5-methyl-pyridin-2-yl)-benzamide | 1.63 g | C(C)(C)C1=NC=NN1C=1C=C(C(=O)NCC2=NC=C(N=C2)C)C=C(C1)C1=NC=C(C=C1)C | C24H25N7O
